US05411989
4-Hydroxy-N-(trans-4-nitroxycyclohexyl)-butyric acid amide
4.8 g (0.03 mol) trans-4-nitroxycyclohexylamine are mixed with 5.7 ml 4-butyrolactone and stirred for 3 d at room temperature. For the removal of the excess lactone, it is filtered over a silicic gel acid with ethyl acetate. After collection of the pure fractions, it is distilled in a vacuum, triturated with ether and filtered off with suction. There remain 2.1 g of the title compound of the melting point 58°-60° C., i.e. 28% of theory.

reactant | trans-4-nitroxycyclohexylamine | 0.03 mol, 4.8 g | O([N+](=O)[O-])[C@@H]1CC[C@H](CC1)N | C6H12N2O3
reactant | 4-butyrolactone | 5.7 ml | C1(CCCO1)=O | C4H6O2
product | 4-Hydroxy-N-(trans-4-nitroxycyclohexyl)-butyric acid amide | OCCCC(=O)N[C@@H]1CC[C@H](CC1)O[N+](=O)[O-] | C10H18N2O5
